US03931268
15.8 g. of 4-[(2-methyl-1,2-dicarbobenzoxy-hydrazino)methyl]-benzoyl chloride were dissolved in 50 ml. of methylene chloride. This solution was added, while stirring, dropwise to a suspension of 12.6 g. of 2-hydroxy-3,3,3-trichloro-propylamine in 150 ml. of methylene chloride. Stirring was continued for 2 hours at room temperature and 30 minutes at 40°, whereupon 50 ml. of water were added thereto. The product was worked up according to Example 3 and treated with hydrogen bromide in glacial acetic acid. The crystalline crude material was recrystallized from ethanol/acetonitrile/ether, yielding 4-[(2-methylhydrazino)-methyl]-benzoic acid [2-hydroxy-3,3,3-trichloropropyl]amide hydrobromide melting at 187°-189° (dec.).

reactant | 4-[(2-methyl-1,2-dicarbobenzoxy-hydrazino)methyl]-benzoyl chloride | CN(N(C(=O)OCC1=CC=CC=C1)CC1=CC=C(C(=O)Cl)C=C1)C(=O)OCC1=CC=CC=C1 | C25H23ClN2O5
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 2-hydroxy-3,3,3-trichloro-propylamine | OC(CN)C(Cl)(Cl)Cl | C3H6Cl3NO
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-[(2-methylhydrazino)-methyl]-benzoic acid [2-hydroxy-3,3,3-trichloropropyl]amide hydrobromide | Br.OC(CNC(C1=CC=C(C=C1)CNNC)=O)C(Cl)(Cl)Cl | InChI=1S/C12H16Cl3N3O2.BrH/c1-16-18-6-8-2-4-9(5-3-8)11(20)17-7-10(19)12(13,14)15;/h2-5,10,16,18-19H,6-7H2,1H3,(H,17,20);1H
